US04576949
A solution of 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinemethanol (5.3 g) in chloroform (150 ml) is treated with three portions (4.5 g) of activated manganese dioxide at 4 hour intervals during reflux reaction. The suspension is filtered and the filtrate is evaporated to yield crude 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinecarboxaldehyde (5.3 g) as an oil. Filtration through silica gel (125 g) removes polar products and provides pure 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinecarboxaldehyde (2.1 g). Activated MnO2 (0.45 g) converts 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinemethanol (0.15 g) to 5,6,7,8-tetrahydro-2-methyl-8-methyl(phenylmethylene)-3-quinolinecarboxaldehyde (m.p. 217°-219°) within 15 minutes in toluene (15 ml) under azeotropic distillation conditions.

reactant | 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinemethanol | 5.3 g | CC1=NC=2C(CCCC2C=C1CO)=CC1=CC=CC=C1 | C18H19NO
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 4.5 g | [O-2].[O-2].[Mn+4]
product | 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinecarboxaldehyde | 2.1 g | CC1=NC=2C(CCCC2C=C1C=O)=CC1=CC=CC=C1 | C18H17NO
